US05639770
21.3 ml of triethylamine and 30.7 ml of cyanotrimethylsilane were added to a suspension of 26.3 g of 2-[2-(3,4-diethoxyphenyl)-4-thiazolyl]pyridine-1-oxide in 500 ml of acetonitrile. The mixture was refluxed for 62 hours. The solvent in the reaction mixture was removed by distillation. To the residue was added an aqueous sodium carbonate solution. The mixture was subjected to extraction with methylene chloride. The methylene chloride layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by silica gel column chromatography (elutant: methylene chloride) and recrystallized from ethanol to obtain 22.2 g of 2-(3,4-diethoxyphenyl)-4-(6-cyano-2-pyridyl)thiazole.

reactant | triethylamine | 21.3 ml | C(C)N(CC)CC | C6H15N
reactant | cyanotrimethylsilane | 30.7 ml | C(#N)[Si](C)(C)C | C4H9NSi
reactant | 2-[2-(3,4-diethoxyphenyl)-4-thiazolyl]pyridine-1-oxide | 26.3 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=[N+](C=CC=C1)[O-] | C18H18N2O3S
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2-(3,4-diethoxyphenyl)-4-(6-cyano-2-pyridyl)thiazole | 22.2 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C#N | C19H17N3O2S
